US07612114B2
4-(1-Acetylpiperidin-4-yloxy)benzonitrile
Synthesized from 4-(4-cyanophenoxy)piperidine-1-carboxylic acid tert-butyl ester (1.5 g) according to an analogous synthetic method to Example 215 described below, the total amount of 4-(piperidin-4-yloxy)benzonitrile crude product was dissolved in acetic anhydride (20 ml) and pyridine (20 ml), and the solution was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, extracted with ethyl acetate, then sequentially washed with a saturated aqueous solution of sodium bicarbonate, water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (1.1 g).

reactant | 4-(4-cyanophenoxy)piperidine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
reactant | 4-(piperidin-4-yloxy)benzonitrile | N1CCC(CC1)OC1=CC=C(C#N)C=C1 | C12H14N2O
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-(1-Acetylpiperidin-4-yloxy)benzonitrile | 1.1 g | C(C)(=O)N1CCC(CC1)OC1=CC=C(C#N)C=C1 | C14H16N2O2
